US08530475B2
(S)-1-(1-Methyl-1H-indol-4-yloxy)-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol
(S)-1-Methyl-4-oxiranylmethoxy-1H-indole (50 mg, 0.25 mmol) and Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (50 mg, 0.189 mmol) were placed in a μW tube with ethanol (2 ml), DIPEA (100 μL, 0.576 mmol) and heated to 120° C. for 900 sec. The solvent was evaporated from the reaction mixture and the residue was purified via flash chromatography (gradient 30% to 100% ethyl acetate/heptane) to yield the title compound as a residue.

reactant | (S)-1-Methyl-4-oxiranylmethoxy-1H-indole | 0.25 mmol, 50 mg | CN1C=CC2=C(C=CC=C12)OC[C@H]1OC1 | C12H13NO2
reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.189 mmol, 50 mg | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
reactant | DIPEA | 0.576 mmol, 100 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (S)-1-(1-Methyl-1H-indol-4-yloxy)-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-2-ol | CN1C=CC2=C(C=CC=C12)OC[C@H](CN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2)O | C30H33N3O2
